US08309721B2
A mixture of 4.78 g of 4-hydroxycarbazole, 9.32 g of N-phenylbis(trifluoromethanesulphonimide) and 3.64 ml of triethylamine in 200 ml of dichloromethane is stirred for 24 hours in a 250 ml round-bottomed flask, under argon at ambient temperature. The reaction medium is evaporated to dryness under vacuum and the blackish residue is chromatographed on silica gel (40-63 μm), elution being carried out with dichloromethane. 7.07 g of 4-trifluoromethanesulphonyloxycarbazole are obtained in the form of a white solid, the characteristics of which are the following:

reactant | 4-hydroxycarbazole | 4.78 g | OC1=CC=CC=2NC3=CC=CC=C3C12 | C12H9NO
reactant | N-phenylbis(trifluoromethanesulphonimide) | 9.32 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | triethylamine | 3.64 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 4-trifluoromethanesulphonyloxycarbazole | 7.07 g | FC(S(=O)(=O)OC1=CC=CC=2NC3=CC=CC=C3C12)(F)F | C13H8F3NO3S
